.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param vdd = 1.8 

.param vlow = 'vdd*0.2'
.param vhigh = 'vdd*0.8'
.param vmid = 'vdd*0.5'

vdd vdd 0 dc {vdd}
vin vin 0 pulse(0 {vdd} 0 20p 20p 1ns 2ns)

xnot1 vin vout vdd 0 invx2
xnot2 vout nc vdd 0 invx1

.include invx2_pex.spice
.include invx1_pex.spice

.tran 1ps 3ns 0 1ps

.meas tran trise trig v(vout) val={vlow} rise=1 targ v(vout) val={vhigh} rise=1
.meas tran tfall trig v(vout) val={vhigh} fall=1 targ v(vout) val={vlow} fall=1

.meas tran tplh trig v(vin) val={vmid} fall=1 targ v(vout) val={vmid} rise=1
.meas tran tphl trig v(vin) val={vmid} rise=1 targ v(vout) val={vmid} fall=1

.control
run
.endc
